US08247403B2
(2) 9-(2-methylphenyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-(2-methylphenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (180 mg, 0.530 mmol), ethyl acetate (1 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) were stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (120 mg, 82.2%) as a solid.

reactant | tert-butyl 9-(2-methylphenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.530 mmol, 180 mg | CC1=C(C=CC=C1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C21H25NO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 1 ml | C(C)(=O)OCC | C4H8O2
product | 9-(2-methylphenyl)-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 120 mg, 82.2% | Cl.CC1=C(C=CC=C1)C1=CC=CC=2CNCCOC21 | InChI=1S/C16H17NO.ClH/c1-12-5-2-3-7-14(12)15-8-4-6-13-11-17-9-10-18-16(13)15;/h2-8,17H,9-11H2,1H3;1H
